US06337305B1
3-Chloro-2-[1-(4-chlorophenyl)-1-methoxycarbonyl-methyl]-5-trifluoromethylpyridine (Process B)
Hydrogen chloride gas was introduced into a solution of 3.0 g of 2-[1-carbamoyl-1-(4-chlorophenyl)methyl]-3-chloro-5-trifluoromethylpyridine (prepared by the method of Example 3) in 100 ml of anhydrous methanol for 5 hours. The mixture was subsequently stirred for another 16 hours and excess hydrogen chloride was removed by passing nitrogen through the mixture. The methanol was separated off and the crude product was purified by silica gel chromatography (eluent: cyclohexane/tert-butyl methyl ether 50:1). Yield: 1.3 g (42%) of colorless crystals; mp.: 103-104° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-[1-carbamoyl-1-(4-chlorophenyl)methyl]-3-chloro-5-trifluoromethylpyridine | 3.0 g | C(N)(=O)C(C1=CC=C(C=C1)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C14H9Cl2F3N2O
reactant | methanol | 100 ml | CO | CH4O
product | 3-Chloro-2-[1-(4-chlorophenyl)-1-methoxycarbonyl-methyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C(C(=O)OC)C1=CC=C(C=C1)Cl | C15H10Cl2F3NO2
